US04413003
B. 1-[2-Hydroxy-1,2-bis-(2-chlorophenyl)ethyl]imidazole
A mixture of 11 g (0.04 m) of 2,2'-dichloro-α,α'-epoxybibenzyl and 15 g (0.22 m) of imidazole is heated at 160° for 11/2 hours. The reaction is cooled, diluted with water, and extracted with ether. The combined ether extracts are washed with water, then saturated sodium chloride solution, and dried over MgSO4. Solvent is evaporated to give 12 g of a gummy solid, mp 62°-68°.

reactant | 2,2'-dichloro-α,α'-epoxybibenzyl | 11 g | ClC1=C(C=CC=C1)C1C(C2=C(C=CC=C2)Cl)O1 | C14H10Cl2O
reactant | imidazole | 15 g | N1C=NC=C1 | C3H4N2
solvent | water | O | H2O
product | 1-[2-Hydroxy-1,2-bis-(2-chlorophenyl)ethyl]imidazole | 12 g | OC(C(C1=C(C=CC=C1)Cl)N1C=NC=C1)C1=C(C=CC=C1)Cl | C17H14Cl2N2O
